US03993679
(5-Carbamoyl-m-phenylene)dioxamic acid hydrate
A mixture of 5.26 gm. (0.015 mole) of diethyl (5-carbamoyl-m-phenylene)dioxamate, 33 ml. of 1N sodium hydroxide solution and 50 ml. of water is stirred for twenty minutes. Methylene chloride (85 ml.) is added and stirring continued for an additional thirty minutes. The aqueous layer is separated and acidified by the addition of dilute hydrochloric acid. The precipitate is removed by filtration and washed with water. The solid is purified by dissolving it in a dilute solution of THAM, filtering the solution and reprecipitation by the addition of a filtered solution of dilute hydrochloric acid. There is obtained 4.7 gm. of material melting at 220° (dec.).

reactant | diethyl (5-carbamoyl-m-phenylene)dioxamate | 0.015 mole | C(N)(=O)C=1C=C(C=C(C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C15H17N3O7
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | O | H2O
solvent | Methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
product | (5-Carbamoyl-m-phenylene)dioxamic acid hydrate | O.C(N)(=O)C=1C=C(C=C(C1)NC(C(=O)O)=O)NC(C(=O)O)=O | InChI=1S/C11H9N3O7.H2O/c12-7(15)4-1-5(13-8(16)10(18)19)3-6(2-4)14-9(17)11(20)21;/h1-3H,(H2,12,15)(H,13,16)(H,14,17)(H,18,19)(H,20,21);1H2
